US07981900B2
N-Ethyl-N′-[2-methoxy-4-(5-methyl-4-{[(1S)-1-pyridin-3-ylbutyl]amino}pyrimidin-2-yl)phenyl]urea
Under a nitrogen atmosphere a mixture of 2-chloro-5-methyl-N-[(1S)-1-pyridin-3-ylbutyl]pyrimidin-4-amine (277 mg, 1.0 mmol), 4-{[(ethylamino)carbonyl]amino}-3-methoxyphenylboronic acid pinacol diester (416 mg, 1.3 mmol), tetrakis(triphenylphosphine)palladium(0) (116 mg, 0.1 mmol) in toluene n-propanol (12 mL, 3:1) was treated with 2M aqueous sodium carbonate solution (750 μL, 1.5 mmol). The resulting mixture was stirred vigorously whilst being heated at 100° C. for 17 hours. Once cool ethyl acetate (25 mL) was added and the mixture washed with H2O (6×15 mL), brine (20 mL) and dried (Na2SO4). Removal of solvent in vacuo then yielded crude product, which was purified by column chromatography using dichloromethane-methanol-aqueous ammonia (93:7:1) as eluent to furnish the product (110 mg, 57%).

reactant | 2-chloro-5-methyl-N-[(1S)-1-pyridin-3-ylbutyl]pyrimidin-4-amine | 1.0 mmol, 277 mg | ClC1=NC=C(C(=N1)N[C@@H](CCC)C=1C=NC=CC1)C | C14H17ClN4
reactant | sodium carbonate | 1.5 mmol, 2M, 750 μL | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
solvent | toluene n-propanol | 12 mL | C(CC)O.C1(=CC=CC=C1)C
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.1 mmol, 116 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-Ethyl-N′-[2-methoxy-4-(5-methyl-4-{[(1S)-1-pyridin-3-ylbutyl]amino}pyrimidin-2-yl)phenyl]urea | 110 mg, 57% | C(C)NC(=O)NC1=C(C=C(C=C1)C1=NC=C(C(=N1)N[C@@H](CCC)C=1C=NC=CC1)C)OC | C24H30N6O2
